US07342019B2
(h) 1-(4-Chlorophenyl)-2-(2,4-dichlorophenyl)ethane-1,2-dione
2-(4-Chlorophenyl)-1-(2,4-dichlorophenyl)ethanone (2.7 g, 9.01 mmol) was dissolved in 1,2-dichloroethane (25 ml) and freshly made PCC (3.89 g, 18.02 mmol), pyridine (1.43 g, 18.02 mmol) and molecular sieves were added. The reaction mixture was refluxed under inert atmosphere overnight. The solution was cooled to 25° C., filtered through Silica and then solvent was evaporated under reduced pressure. The crude product (1.9 g, 66%) was used directly in the next step. 1H NMR (500 MHz) δ 7.97 (d, 2H), 7.84 (d, 1H), 7.52 (d, 2H), 7.46 (s, 1H), 7.44 (d, 1H).

reactant | 2-(4-Chlorophenyl)-1-(2,4-dichlorophenyl)ethanone | 9.01 mmol, 2.7 g | ClC1=CC=C(C=C1)CC(=O)C1=C(C=C(C=C1)Cl)Cl | C14H9Cl3O
reactant | PCC | 18.02 mmol, 3.89 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | pyridine | 18.02 mmol, 1.43 g | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
product | 1-(4-Chlorophenyl)-2-(2,4-dichlorophenyl)ethane-1,2-dione | ClC1=CC=C(C=C1)C(C(=O)C1=C(C=C(C=C1)Cl)Cl)=O | C14H7Cl3O2
